US04399281
To a suspension of 4.0 g. (13.7 mmole) of 2,2'-bipyridinium chlorochromate in 15 ml of dichloromethane is added, while stirring, 0.5 g. (3.5 mmole) of 2-isopropylcyclohexanol in 10 ml of dichloromethane. The resulting reaction mixture is stirred for 4 hours and then filtered through a Hirsch funnel packed with 2 cm of Celite®. The resulting clear filtrate is washed with 5% hydrochloric acid and 10% sodium carbonate, and dried over magnesium sulfate. The drying agent is then removed and the solvent evaporated to yield a colorless oil which is distilled via Kugelrohr to yield pure 2-isopropylcyclohexanone in a typical yield of 0.425 g. which is 86% of theoretical yield.

reactant | 2,2'-bipyridinium chlorochromate | 13.7 mmole | [Cr](=O)(=O)([O-])Cl.[NH+]1=C(C=CC=C1)C1=[NH+]C=CC=C1.[Cr](=O)(=O)([O-])Cl
reactant | 2-isopropylcyclohexanol | 3.5 mmole | C(C)(C)C1C(CCCC1)O | C9H18O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-isopropylcyclohexanone | C(C)(C)C1C(CCCC1)=O | C9H16O
